US08030497B2
4-Iodo-5-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
A solution of 100 mg (0.248 mmol) 5-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole and 61 mg (0.273 mmol) N-iodosuccinimide in 3 ml acetonitrile is refluxed for 12 h. The reaction mixture is cooled to room temperature and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=4:1) and recrystallisation from hexane/diethyl ether afforded 82 mg of the title compound as colorless crystals.

reactant | 5-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 0.248 mmol, 100 mg | BrC1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC | C20H23BrN2O2
reactant | N-iodosuccinimide | 0.273 mmol, 61 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-Iodo-5-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 82 mg | IC1=C(C=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC)Br | C20H22BrIN2O2
